Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillin V Potassium / Cymbalta / Neurontin / latex
 
Attending: ___.
 
Chief Complaint:
weakness, headaches  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old gentleman with an inflammatory 
arthropathy associated with chronic HCV, fibromyalgia, avulsion 
fracture of the right ankle, latent TB, who is presenting as a 
referral from his rheumatologist for innominate artery stenosis.

Patient reports that ever while he has not been doing well the 
past several months.  He notes that this started with a dizzy 
spell several months ago where he was only able to see partially 
out of his right eye.  He was eventually sent to cardiologist 
who per report is a negative workup.  However he has noted since 
that time he has been losing weight in particular muscle mass.  
Has been having increased difficulties with memory.  Has noted 
worsening headaches, the feel like "pounding".  At times also is 
having white flashes across his vision.  These initially started 
with activity but recently have been without activity as well.  
Veins in his legs have appeared "bulging".  He notes that this 
was felt initially to be from depression, but he does not feel
that he is depressed.

He was seen by his rheumatologist last month, he was concerned 
giving new symptoms of headaches, weight loss, and proximal 
weakness on exam.  Was also noted to have a normal CBC, ESR and 
CRP, no paraproteinemia.  An ultrasound of the carotid arteries 
was done, with mild stenosis of both right and left internal 
carotid arteries.  The right subclavian artery was noted to be 
abnormal, monophasic, suggesting proximal occlusion.  He 
therefore underwent an MRA chest with and without contrast.  
This showed evidence of high-grade stenosis of the proximal 
innominate artery, concerning for a vasculitic process. Patient 
underwent temporal artery biopsy with no evidence of 
inflammation.  He was trialed on prednisone 60 mg, which did not 
improve his symptoms. Given that his symptoms were not improved, 
with somewhat unclear explanation, patient was referred to ED 
for further evaluation.

In the ED, initial vitals: T 98.3, HR 68, BP 151/54, RR 18, 100% 
RA  

Labs were significant for  
- CBC:  WBC 6.0 (90.5%n), Hgb 13.8, Plt 147

- Lytes:
 
139 / 106 / 30  
------------- 112 
4.8 \ 23 \ 1.0 

- Lactate:1.3

- u/a with trace protein

Imaging was significant for: CTA head and neck with Focal areas 
of enhancement adjacent to the right carotid, at the level of 
the bifurcation (2:165, 2:168), may be due to atherosclerosis, 
less likely dissection. Mild focal areas of narrowing within the 
left V4 segment (2:244, 2:254). Otherwise, no evidence of 
stenosis or occlusion of the vertebral or carotid arteries.

Vitals prior to transfer:  T 97.8, HR 62, BP 128/86, RR 16, 97% 
RA 
 

Currently, patient recounts story as noted above.  States he has 
a little bit of back pain currently.  No other complaints.
 
ROS: Positive as noted above. Negative for: No fevers, chills, 
night sweats, or weight changes. No changes in hearing. No 
cough, no shortness of breath, no dyspnea on exertion. No chest 
pain or palpitations. No nausea or vomiting. No diarrhea or 
constipation. No dysuria or hematuria. No hematochezia, no 
melena. 
 
Past Medical History:
- Hep C s/p harvoni
- latent TB (previous positive quant gold)
- Arthritis.
- Chronic low back pain and fibromyalgia (following MVA in ___
- Chronic pain syndrome.
- Anxiety/Depression
- Avulsion fracture of the right ankle
 
Social History:
___
Family History:
- heart disease on father's side
- Mother died of pneumonia
 
Physical Exam:
================================  
EXAM ON ADMISSION  
================================  
VITALS: 97.5, BP 155/86, HR 48, RR 18, 99 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, L pupil > R (chronic per patient), both 
reactive to light
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel 
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: pleasant, appropriate affect

================================  
EXAM ON DISCHARGE  
================================  

VITALS: ___ Temp: 97.5 PO BP: 91/66 HR: 63 RR: 18 O2 
sat: 99% O2 delivery: Ra 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, L pupil > R (chronic per patient), both 
reactive
to light, left eyelid drooping (chronic)
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD. 2+ pulse 
left radial and brachial, 1+ on right. Cap refill 4 seconds. 
Mild dorsal hand skin tenting
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout, ___ UE and ___ strength
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
================================  
LABS ON ADMISSION  
================================  
___ 06:35PM BLOOD WBC-6.0 RBC-4.23* Hgb-13.8 Hct-41.0 
MCV-97 MCH-32.6* MCHC-33.7 RDW-12.9 RDWSD-46.2 Plt ___
___ 06:35PM BLOOD Neuts-90.5* Lymphs-6.2* Monos-2.8* 
Eos-0.0* Baso-0.0 Im ___ AbsNeut-5.40 AbsLymp-0.37* 
AbsMono-0.17* AbsEos-0.00* AbsBaso-0.00*
___ 08:25AM BLOOD ___ PTT-25.4 ___
___ 06:35PM BLOOD Glucose-112* UreaN-30* Creat-1.0 Na-139 
K-4.8 Cl-106 HCO3-23 AnGap-10
___ 08:25AM BLOOD Calcium-8.7 Phos-3.2 Mg-2.1
___ 08:25AM BLOOD ALT-18 AST-13 AlkPhos-55 TotBili-0.7
___ 06:35PM BLOOD Albumin-4.1
___ 06:43PM BLOOD Lactate-1.3

================================  
PERTINENT INTERVAL LABS  
================================  
___ ACTH PENDING
___ 01:58PM BLOOD %HbA1c-5.2 eAG-103
___ 01:58PM BLOOD Triglyc-159* HDL-51 CHOL/HD-2.2 
LDLcalc-29
___ 07:15AM BLOOD TSH-3.6
___ 07:15AM BLOOD 25VitD-30
___ 09:00AM BLOOD CRP-0.5
___ 09:00AM BLOOD HIV Ab-NEG
___ 07:15AM BLOOD VitB12-395 Folate-14
___ Vitamin B1 PENDING

___ 09:00AM BLOOD Cortsol-5.3 at 8 AM
___ 01:58PM BLOOD Cortsol-4.7 (immediately prior to 
cosyntropin)
___ 02:35PM BLOOD Cortsol-13.1 (30 min after cosyntropin)
___ 03:00PM BLOOD Cortsol-15.1 (60 min after cosyntropin)

Urine osmolality 523
Urine tox screen ___ benzo POS opiates POS

================================  
LABS ON DISCHARGE  
================================  

___ 07:34AM BLOOD WBC-7.1 RBC-4.45* Hgb-14.3 Hct-43.0 
MCV-97 MCH-32.1* MCHC-33.3 RDW-12.9 RDWSD-46.1 Plt ___
___ 07:34AM BLOOD Glucose-85 UreaN-17 Creat-0.9 Na-139 
K-4.7 Cl-101 HCO3-25 AnGap-13
___ 07:34AM BLOOD Calcium-9.4 Phos-3.5 Mg-2.3

================================  
MICROBIOLOGY  
================================  

___ Stool ova and parasites PENDING
___ Stool ova and parasites NEGATIVE, FINAL
___ RPR NEGATIVE, FINAL
___ Blood culture x2 NGTD, PENDING
___ Urine culture <10,000 FINAL
___ RPR NEGATIVE, FINAL
___ Blood culture NEGATIVE, FINAL

================================  
IMAGING  
================================  

## ___ Chest xray Pa and Lat:
The lungs are clear without focal consolidation.  No pleural 
effusion or pneumothorax is seen. The cardiac and mediastinal 
silhouettes are unremarkable. 
IMPRESSION:  No acute cardiopulmonary process. 

## ___ CTA head and neck:
1. Moderate to severe stenosis identified at the origin of the 
brachiocephalic 
trunk as described in detail above, with a combination of soft 
plaque and 
punctate calcification. 
2. No evidence of high-grade stenosis throughout the cervical 
carotid arteries, occlusion, aneurysm or dissection. 
3. There is no evidence of acute intracranial process or 
hemorrhage. 
4. Moderate centrilobular emphysema. 

## ___ Carotid Doppler Ultrasound
1. significant innominate artery stenosis. 
2. right vertebral artery waveform which can be seen in 
subclavian steal syndrome. Recommend clinical correlation. 
3. less than 40% stenosis in the bilateral internal carotid 
arteries. 

## ___ PET/CT: report pending at time of discharge
 
Brief Hospital Course:
# Innominate artery stenosis:
#Subclavian steal syndrome:
CTA, MR chest and carotid duplex confirmed significant 
innominate artery stenosis.  The patient was seen by Neurology 
and Vascular Surgery.  While the patient does have symptoms 
consistent with subclavian steal (dizziness, headaches worse 
with standing or sitting up), this was ultimately not thought to 
be a major contributor to his overall symptomatology.  He had no 
arm ischemia, his headaches did not improve with lying down and 
his headaches also sometimes wake him from sleep (not a feature 
of subclavian steal).  To manage this stenosis, he was started 
on atorvastatin 40 mg, encouraged to remain tobacco free and 
continue taking aspirin daily.  He will see Vascular Surgery in 
follow-up.

# Headaches
As above, his headaches are suspected to be multifactorial in 
nature with contributions from innominate artery stenosis, 
migraine, tension, occipital neuralgia and possible orthostatic 
hypotension.  He was seen by Neurology.  He was started on 
nortriptyline.  He will see Neurology in follow-up and can be 
considered for occipital nerve block as an outpatient.

# Adrenal Insufficiency:
The patient had a borderline low early morning cortisol level 
and did not respond appropriately to cosyntropin stimulation 
test. He was not hypotensive, hyperkalemic or otherwise severely 
symptomatic that would prompt inpatient initiation of 
glucocorticoids or mineralocorticoids. Of note he has been 
taking daily opiate pain medications at home, which is 
associated with adrenal insufficiency. We agreed with weaning 
off of these medications as he has already been doing, and 
should repeat stim test once no longer taking them. His ACTH 
level was  drawn and pending at time of discharge.

# Weight loss, Moderate to severe protein calorie malnutrition:
The etiology of his weight loss is still undetermined.  
Differential includes vasculitis (though ESR, CRP normal) vs 
malignancy vs adrenal insufficiency.  His B12, thiamine, folate, 
TSH, HIV, RPR levels were all within normal range.  A chest 
x-ray did now show any signs of active pulmonary TB. PET/CT was 
completed on ___ and the results are pending at time of 
discharge.

CHRONIC/STABLE PROBLEMS:

#Chronic Pain:
He was continued on his home diazepam prn spams and home 
HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO BID:PRN Pain.  He 
is weaning these as an outpatient.

# Inflammatory arthropathy associated with HCV
He continued home Plaquenil.

He was discharged to home on ___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diazepam 10 mg PO TID:PRN muscle spasms or anxiety 
2. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO BID:PRN Pain - 
Moderate 
3. Hydroxychloroquine Sulfate 200 mg PO BID 
4. Aspirin 81 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1 
2.  Nortriptyline 20 mg PO QHS 
RX *nortriptyline 10 mg 2 tab by mouth nightly Disp #*60 Capsule 
Refills:*1 
3.  Aspirin 81 mg PO DAILY  
4.  Diazepam 10 mg PO TID:PRN muscle spasms or anxiety  
5.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO BID:PRN Pain 
- Moderate  
6.  Hydroxychloroquine Sulfate 200 mg PO BID  
7.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Weight loss

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came to the hospital for work-up of ongoing headaches, 
dizziness and weight loss.  We think the cause of your symptoms 
is multi-factorial including: narrowing of the innominate artery 
(large artery that carries blood to the brain and arm) and 
adrenal insufficiency. 
 
Followup Instructions:
___